US08193378B2
A mixture of methyl 4-(bromomethyl)-2-{[tert-butyl(dimethyl)silyl]oxy}benzoate (0.30 g) and triethylphosphite (0.17 g) was mixed at 25° C. and then stirred at 130° C. for 24 hours. The reaction liquid was concentrated under reduced pressure and azeotroped with toluene twice (30 mL×2). The residue was purified by silica gel column chromatography (automatic purification device, hexane:EtOAc=40:60 to 10:90) to obtain methyl 2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(diethoxyphosphoryl)methyl]benzoate (0.23 g) as a colorless liquid

reactant | methyl 4-(bromomethyl)-2-{[tert-butyl(dimethyl)silyl]oxy}benzoate | 0.30 g | BrCC1=CC(=C(C(=O)OC)C=C1)O[Si](C)(C)C(C)(C)C | C15H23BrO3Si
reactant | triethylphosphite | 0.17 g | C(C)OP(OCC)OCC | C6H15O3P
product | methyl 2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(diethoxyphosphoryl)methyl]benzoate | 0.23 g | [Si](C)(C)(C(C)(C)C)OC1=C(C(=O)OC)C=CC(=C1)CP(=O)(OCC)OCC | C19H33O6PSi
